US06727264B1
2-METHYL-N-(3-{1-[3-(PHENYLSULFANYL)PROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure G and Scheme B1 using [(3-chloropropyl)sulfanyl]benzene and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: 1H NMR (400 MHz, CDCl3) δ 7.63 (s, 1H), 7.48 (s, 1H), 7.33 (m, 3H), 7.27 (t, 2H, J=7.5 Hz), 7.20 (t, 1H, J=7.9 Hz), 7.15 (tt, 1H, J=7.2, 1.4 Hz), 6.95 (d, 1H, J=7.6 Hz), 2.97 (t, 4H, J=7.3 Hz), 2.46 (m, 4H), 1.99 (dt, 2H, J=11.4, 3.0 Hz), 1.84 (qt, 2H, J=7.3 Hz), 1.77 (m, 4H), 1.21 (d, 6H, J=6.8 Hz); ESMS m/e: 396.8 (M+H)+.

reactant | [(3-chloropropyl)sulfanyl]benzene | ClCCCSC1=CC=CC=C1 | C9H11ClS
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-(3-{1-[3-(PHENYLSULFANYL)PROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCSC1=CC=CC=C1)C | C24H32N2OS
